US06743785B2
(6,6-Dimethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)acetic acid
To a solution of glacial acetic acid (80 mL) and concentrated hydrochloric acid (9 mL) was added 3,4-dihydro-4,4-dimethyl-1-(2H)-quinolinamine (9.5 g, 53.9 mmol) and 2-ketoglutaric acid (9.7 g, 65.1 mmol) and the suspension heated at reflux for 3 hours. After cooling the solvents were removed under reduced pressure and the residue dissolved in 500 mL of ethyl acetate. The ethyl acetate solution was washed with water (3×150 mL) and saturated aqueous sodium chloride (1×50 mL), dried over sodium sulfate,-filtered and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 1-4% methanol in dichloromethane. Fractions containing product were combined and concentrated under reduced pressure to provide 4.45 g (34%) of the desired compound as a tan foam. An impure fraction was extracted with 1N sodium hydroxice (2×50 mL) and the combined aqueous layers washed with diethyl ether (20 mL) and made acidic with concentrated hydrochloric acid (8 mL). This aqueous mixture was extracted with dichloromethane (2×100 mL), followed by drying (Na2SO4) to provide an additional 2.55 g (19%) of desired product

reactant | hydrochloric acid | 9 mL | Cl | ClH
reactant | 3,4-dihydro-4,4-dimethyl-1-(2H)-quinolinamine | 53.9 mmol, 9.5 g | CC1(CCN(C2=CC=CC=C12)N)C | C11H16N2
reactant | 2-ketoglutaric acid | 65.1 mmol, 9.7 g | O=C(C(=O)O)CCC(=O)O | C5H6O5
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | (6,6-Dimethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)acetic acid | 4.45 g, 34% | CC1(CCN2C3=C(C=CC=C13)C(=C2)CC(=O)O)C | C15H17NO2
